US04847256
A stirred mixture of 10.88 g of 5-amino-4-pyrazolecarboxylic acid, ethyl ester, 11.51 g of malonaldehyde bis(dimethyl acetal) and 100 ml of glacial acetic acid was heated at reflux for 16 hours, then worked up as described in Example 50 to give 7.8 g of pyrazolo[1,5-a]pyrimidine-3-carboxylic acid, ethyl ester.

reactant | 5-amino-4-pyrazolecarboxylic acid, ethyl ester | 10.88 g | NC1=C(C=NN1)C(=O)OCC | C6H9N3O2
reactant | malonaldehyde bis(dimethyl acetal) | 11.51 g | COC(CC(OC)OC)OC | C7H16O4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | pyrazolo[1,5-a]pyrimidine-3-carboxylic acid, ethyl ester | 7.8 g | N1=CC(=C2N1C=CC=N2)C(=O)OCC | C9H9N3O2
